US06620438B2
11.9 g of 4-(Cyclopropylmethyl-methyl-amino)-piperidine-dihydrochloride are taken up in 400 ml of acetone and combined with 21.7 g of N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide and 21 ml of triethylamine. The mixture is refluxed for 16 hours, then the solvent is eliminated in vacuo and the residue is taken up in 10% sodium hydrogen carbonate solution. It is extracted with ether, the combined organic phases are dried over sodium sulphate and freed from solvent in vacuo. The residue is filtered with ethyl acetate/methanol/conc. ammonia solution 70:30:1 over silica gel, freed from the solvents in vacuo and brought to crystallisation in methanol with fumaric acid. The precipitate is suction filtered, washed with methanol and dried in vacuo. 9.3 g of N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-[4-(cyclopropylmethyl-methyl-amino)-piperidin-1-yl]-N-methyl-2-phenyl-acetamide are obtained as the sesquifumarate.

reactant | 4-(Cyclopropylmethyl-methyl-amino)-piperidine-dihydrochloride | 11.9 g | Cl.Cl.C1(CC1)CN(C1CCNCC1)C
reactant | N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-methanesulphonyloxy-N-methyl-2-phenyl-acetamide | 21.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)OS(=O)(=O)C)=O)C)(F)F | C20H19F6NO4S
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-2-[4-(cyclopropylmethyl-methyl-amino)-piperidin-1-yl]-N-methyl-2-phenyl-acetamide | 9.3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCN(C(C(C1=CC=CC=C1)N1CCC(CC1)N(C)CC1CC1)=O)C)(F)F | C29H35F6N3O
